US05329058
Using a 10% toluene solution of 1,5-dimethyltetralin obtained by the above method (A), dehydrogenation was conducted at 400° C. in a hydrogen atmosphere in the presence of a 0.3% Pt/Al2O3 catalyst for dehydrogenation to obtain 1,5-dimethylnaphthalene. Conversion of 1,5-dimethyltetralin was 100%, and selectivity to 1,5-dimethylnaphthalene was 97%.

reactant | 1,5-dimethyltetralin | CC1CCCC2=C(C=CC=C12)C | C12H16
reactant | hydrogen | [H][H] | H2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,5-dimethylnaphthalene | CC1=CC=CC2=C(C=CC=C12)C | C12H12
